US09035059B2
N-[4-(2-Cyclopentylethoxy)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
An aqueous solution (1 mL) of potassium hydroxide (29 mg, 0.51 mmol) was added to a solution of N-[4-(2-cyclopentylethoxy)-2-fluorophenyl]-N-(4-methoxybenzyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (163 mg, 0.26 mmol) in ethanol (4 mL), and the mixture was stirred at room temperature for 15 hr. The mixture was diluted with water and extracted with chloroform. The organic layer was concentrated under reduced pressure to afford the title compound as a colorless oil (145 mg).

reactant | potassium hydroxide | 0.51 mmol, 1 mL, 29 mg | [OH-].[K+]
reactant | N-[4-(2-cyclopentylethoxy)-2-fluorophenyl]-N-(4-methoxybenzyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | C1(CCCC1)CCOC1=CC(=C(C=C1)N(S(=O)(=O)C=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O)CC1=CC=C(C=C1)OC)F | C32H34F4N2O5S
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | N-[4-(2-Cyclopentylethoxy)-2-fluorophenyl]-N-(4-methoxybenzyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 145 mg | C1(CCCC1)CCOC1=CC(=C(C=C1)N(S(=O)(=O)C=1C=C2CCNCC2=CC1)CC1=CC=C(C=C1)OC)F | C30H35FN2O4S
